US09034866B2
Synthesis of 3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-8,9-dione
A solution of crude 9-bromo-3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one (1.400 g at 87% purity LCMS-UV215) in dimethylsulfoxide (15 mL) was warmed to 80° C. for 1 hr under an atmosphere of nitrogen. Evaporation in vacuo furnished the crude title compound (2.855 g) containing residual DMSO as a golden-brown oil which was carried through to the next synthetic step without further purification: 1H NMR (500 MHz, CDCl3) δ 2.25-2.30 (m, 2H), 3.12-3.18 (m, 2H), 3.48-3.51 (m, 1H), 3.61-3.65 (m, 1H), 6.94 (d, J=8.2 Hz, 1H), 8.55 (d, J=6.6 Hz, 1H).

reactant | 9-bromo-3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one | 1.400 g | BrC1C(C2CC(C3=C1C=C(C(=C3)F)I)C2)=O | C12H9BrFIO
reactant | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-8,9-dione | 2.855 g | FC1=CC2=C(C(C(C3CC2C3)=O)=O)C=C1I | C12H8FIO2
